US07713979B2
1-Cyclohexyl-3-[(2,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidin-2-one
Using the procedure to synthesize Example 1 and using reagents 1-cyclohexyl-pyrrolidin-2-one (500 mg, 3.0 mmol), LDA (2.0 M, 1.8 mL, 3.6 mmol) and 2,4-dichlorobenzaldehyde (630 mg, 3.6 mmol) affords 530 mg (53%) of the title compound as a white solid. Separate the diastereomers over silica gel (30% ethyl acetate in hexanes) Isomer 1 (Example 78): (25%) Mass spectrum (apci) m/z=342.0 (M+H). HPLC (5 to 95) Rt (Purity at 220 mn)=3.77 min (98%). Isomer 2 (Example 79): (28%) Mass spectrum (apci) m/z=342.0 (M+H). HPLC (5 to 95) Rt (Purity at 220 nm)=3.52 min (100%).

reactant | 1-cyclohexyl-pyrrolidin-2-one | 3.0 mmol, 500 mg | C1(CCCCC1)N1C(CCC1)=O | C10H17NO
reactant | LDA | 3.6 mmol, 2.0 M, 1.8 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2,4-dichlorobenzaldehyde | 3.6 mmol, 630 mg | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
product | 1-Cyclohexyl-3-[(2,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidin-2-one | 530 mg, 53% | C1(CCCCC1)N1C(C(CC1)C(O)C1=C(C=C(C=C1)Cl)Cl)=O | C17H21Cl2NO2
